US09315763B2
(a) Synthesis of bis[(Z)-3-hexenyl]oxalate
Oxalyl chloride (12.7 g, 100.0 mmol) was added dropwise during 20 min to a stirred solution of (Z)-3-hexenol (20.0 g, 200.0 mmol) in pyridine (240 mL) at 0° C. The reaction mixture was allowed to warm up to room temperature during the week-end, then added to H2SO4 (50%, containing ice, 400 mL), extracted with ether (400 mL and 200 mL), treated again with H2SO4 (50%, containing ice, 400 mL), washed with a saturated solution of NaCl (200 mL) and a saturated solution of NaHCO3 (200 mL, 2×). The organic layer was dried (Na2SO4) and concentrated. Column chromatography (SiO2, heptane/diethyl ether 9:1) gave, after drying under vacuum (0.5 mbar, 1 h), 20.9 g (82%) of an oil.

reactant | Oxalyl chloride | 100.0 mmol, 12.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Z)-3-hexenol | 200.0 mmol, 20.0 g | C(C\C=C/CC)O | C6H12O
reactant | H2SO4 | 400 mL | OS(=O)(=O)O | H2O4S
solvent | pyridine | 240 mL | N1=CC=CC=C1 | C5H5N
product | bis[(Z)-3-hexenyl]oxalate | C(C\C=C/CC)OC(C(=O)OCC\C=C/CC)=O | C14H22O4
